US07414045B2
Step 2: Methyl 3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate
A mixture of dimethyl (2E)-2-[(azepan-2-ylideneamino)oxy]but-2-enedioate and dimethyl (2Z)-2-[(azepan-2-ylideneamino)oxy]but-2-enedioate in ratio 8/1 was dissolved in o-xylene and refluxed. After 16 h the solvent was removed under reduced pressure and the residue, dissolved in ethyl acetate, was extracted with a saturated solution of NaHCO3 in water. The pH of the aqueous phase was adjusted to about 3 adding 6M HCl aq. and the solution was extracted with dichloromethane. The organic phase was dried over sodium sulphate and concentrated.

reactant | dimethyl (2E)-2-[(azepan-2-ylideneamino)oxy]but-2-enedioate | N1C(CCCCC1)=NO\C(\C(=O)OC)=C\C(=O)OC | C12H18N2O5
reactant | dimethyl (2Z)-2-[(azepan-2-ylideneamino)oxy]but-2-enedioate | N1C(CCCCC1)=NO\C(\C(=O)OC)=C/C(=O)OC | C12H18N2O5
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | Methyl 3-hydroxy-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepine-2-carboxylate | OC1=C(N=C2N(CCCCC2)C1=O)C(=O)OC | C11H14N2O4
